US08541596B2
N-Phenyl-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from 5-bromobenzimidazole (1.0 g; 5 mmol; 1 eq.), aniline (559 mg; 0.547 ml; 6 mmol; 1.2 eq.), lithiumbis(trimethylsilyl)amide 1M in THF (11 ml; 11 mmol; 2.2 eq.), 2-dicyclohexylphos-phino-2″-(N,N-dimethylamino)biphenyl) (45 mg; 0.12 mmol; 0.024 eq.; 2.4 mol %), Pd2 dba3 (45 mg; 0.05 mmol; 0.01 eq.; 1 mol %) and THF (5 ml) according to method 1; Yield: 0.565 g (54.1%); MS m/z: 210.2 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 6.72-6.75 (m, 1H); 6.94-6.96 (m, 1H); 7.00-7.02 (m, 2H); 7.16-7.19 (m, 2H); 7.25 (br s, 1H); 7.47 (d, 1H, 3J=8.5 Hz); 7.98 (br s, 1H); 8.04 (s, 1H); 12.13 (br s, 1H); HPLC (METHOD [A]): rt 10.62 min (87.0%)

reactant | 5-bromobenzimidazole | 5 mmol, 1.0 g, 1 eq. | BrC1=CC2=C(N=CN2)C=C1 | C7H5BrN2
reactant | aniline | 6 mmol, 0.547 ml, 559 mg, 1.2 eq. | NC1=CC=CC=C1 | C6H7N
reactant | lithiumbis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
catalyst | Pd2 dba3 | 0.05 mmol, 45 mg, 0.01 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 11 mmol, 11 ml, 2.2 eq. | C1CCOC1 | C4H8O
product | N-Phenyl-1H-benzo[d]imidazol-5-amine | C1(=CC=CC=C1)NC1=CC2=C(NC=N2)C=C1 | C13H11N3
